US09126981B2
Synthesis of Ethyl 1-(aminomethyl)cyclopropanecarboxylate (Compound XIV-3)
To a solution of ethyl 1-cyanocyclopropanecarboxylate (1 g, 7.18 mmol) in ethanol-water-conc. ammonia solution (7 ml-350 μl-1 ml) was added raney nickel (ca. 350 μl) and the mixture was sittred for 24 hr at 50° C. The reaction mixture was filtered through Celite and the filtrate was concentrated in vacuo to obtain the title compound (690 mg, 67%).

reactant | ethyl 1-cyanocyclopropanecarboxylate | 7.18 mmol, 1 g | C(#N)C1(CC1)C(=O)OCC | C7H9NO2
reactant | ammonia | 7 ml-350 μl | N | H3N
solvent | ethanol water | C(C)O.O
catalyst | raney nickel | ca. 350 μl | [Ni] | Ni
product | Ethyl 1-(aminomethyl)cyclopropanecarboxylate | 690 mg, 67% | NCC1(CC1)C(=O)OCC | C7H13NO2
